US07157535B2
Synthesis of 4-allyloxybenzophenone (1)
4-hydroxybenzophenone (186.7 g, 940 mmol, Fluka Chemical) was dissolved in 2-butanone (700 mL, Fisher Scientific) in a 2L four-necked flask equipped with a mechanical stirrer, reflux condenser, addition funnel and internal temperature probe. K2CO3 (195 g, 1.41 mol, Aldrich Chemical) was added to the reactor, and the contents was placed under a slow N2 purge. Allyl bromide (123 mL, 1.41 mol, Aldrich Chemical) was charged to the addition funnel. The pot temperature was raised to 65° C., at which point the allyl bromide was added over the course of 30 minutes. The reaction was stirred for 6.5 h at 65° C. after the addition was completed. At this point no starting material was present as determined by GC analysis.

reactant | 4-hydroxybenzophenone | 940 mmol, 186.7 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | K2CO3 | 1.41 mol, 195 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Allyl bromide | 1.41 mol, 123 mL | C(C=C)Br | C3H5Br
solvent | 2-butanone | 700 mL | CC(CC)=O | C4H8O
product | 4-allyloxybenzophenone | C(C=C)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H14O2
